US08530470B2
To a stirred suspension of methyl 3-bromo-4-hydroxybenzoate (270 g, 1168 mmol) in DCM (1.5 L) was added pyridine (150 mL). Acetyl chloride (87 mL, 1227 mmol) was then added dropwise at room temperature and under nitrogen. The mixture was left to stir for 2 h at room temperature. Water (1 L) was then added followed by HCl 2N until pH 1. The organic layer was then washed with water, brine, dried over MgSO4, filtered and evaporated to dryness to afford methyl 4-acetoxy-3-bromobenzoate (300 g, 94%) as a white powder.

reactant | methyl 3-bromo-4-hydroxybenzoate | 1168 mmol, 270 g | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
reactant | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | 1227 mmol, 87 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 2N | Cl | ClH
solvent | DCM | 1.5 L | C(Cl)Cl | CH2Cl2
solvent | Water | 1 L | O | H2O
product | methyl 4-acetoxy-3-bromobenzoate | 300 g, 94% | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1)Br | C10H9BrO4
